US04533688
(b) 2-Chloro-4,6-bis[N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]-1,3,5-triazine
9.0 g of cyanuric chloride and 20.0 g of 4-amino-1,2,2,6,6-pentamethylpiperidine were dissolved in 100 ml of xylene, and the solution was stirred at room temperature for 1 hour. 50 ml of a saturated aqueous solution of potassium carbonate were then added to the resulting solution and the mixture was stirred for a further 2 hours at 60° C. At the end of this time, water and chloroform were added to the mixture, which was then allowed to stand at room temperature. The resulting crystals were filtered off and then recrystallized from benzene, to give the title compound in the form of crystals melting at 290° C.

reactant | cyanuric chloride | 9.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 20.0 g | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-4,6-bis[N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NC1CC(N(C(C1)(C)C)C)(C)C)NC1CC(N(C(C1)(C)C)C)(C)C | C23H42ClN7
